US05840917
3-Amino-2-thiophenecarboxylic acid methyl ester (9.4 g) was suspended in hydrobromic acid (20 ml), and the mixture was stirred at room temperature for 30 minutes. The mixture was cooled to 0° C., and sodium nitrite (4.2 g) in water (10 ml) was added dropwise below 10° C. The mixture was stirred for 1 hour, and then poured into copper (I) bromide (9.06 g) in hydrobromic acid (25 ml). The resulting mixture was stirred at 60° C. for 1 hour and extracted with diethyl ether. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure and distilled under reduced pressure to give 3-bromo-2-thiophenecarboxylic acid methyl ester (7.99 g) as crystals.

reactant | 3-Amino-2-thiophenecarboxylic acid methyl ester | 9.4 g | COC(=O)C=1SC=CC1N | C6H7NO2S
reactant | sodium nitrite | 4.2 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 20 ml | Br | BrH
reactant | hydrobromic acid | 25 ml | Br | BrH
solvent | water | 10 ml | O | H2O
catalyst | copper (I) bromide | 9.06 g | [Cu]Br
product | 3-bromo-2-thiophenecarboxylic acid methyl ester | 7.99 g | COC(=O)C=1SC=CC1Br | C6H5BrO2S
